US08247430B2
4-[1-Methyl-1-(4-nitro-phenyl)-ethyl]-3,6-dihydro-2H-pyridine-1-carboxylic Acid Ethyl Ester
1-Methyl-4-[1-methyl-1-(4-nitro-phenyl)-ethyl]-1,2,3,6-tetrahydro-pyridine (5.2 g) was dissolved in toluene (100 mL) and ethyl chloroformate (2.4 g). The mixture was heated at reflux for overnight and cooled to RT. The toluene solution was washed with NaHCO3 (aq., sat., 100 mL) then brine (100 mL) and dried over Na2SO4. The organic phase was concentrated in vacuo to give the desired compound which was used without purification.

reactant | 1-Methyl-4-[1-methyl-1-(4-nitro-phenyl)-ethyl]-1,2,3,6-tetrahydro-pyridine | 5.2 g | CN1CCC(=CC1)C(C)(C1=CC=C(C=C1)[N+](=O)[O-])C | C15H20N2O2
reactant | ethyl chloroformate | 2.4 g | ClC(=O)OCC | C3H5ClO2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[1-Methyl-1-(4-nitro-phenyl)-ethyl]-3,6-dihydro-2H-pyridine-1-carboxylic Acid Ethyl Ester | C(C)OC(=O)N1CCC(=CC1)C(C)(C1=CC=C(C=C1)[N+](=O)[O-])C | C17H22N2O4
